US04200578
1-Cyano-2-(2-propynylamino)-2-{2-[(thiazol-2-yl)methylthio]ethylamino}ethylene
When 2-[(thiazol-2-yl)methylthio]ethylamine is reacted with 1-cyano-2,2-bis(methoxy)ethylene [prepared according to the procedure described in J. Chem. Soc., (Suppl. Issue No. 1), S106-111 (1949)] and the resultant 1-cyano-2-methoxy-2-{2-[(thiazol-2-yl)methylthio]ethylamino}ethylene is reacted with propargylamine in the procedure of Example 1, the title compound is produced.

reactant | 2-[(thiazol-2-yl)methylthio]ethylamine | S1C(=NC=C1)CSCCN | C6H10N2S2
reactant | 1-cyano-2,2-bis(methoxy)ethylene | C(#N)C=C(OC)OC | C5H7NO2
reactant | 1-cyano-2-methoxy-2-{2-[(thiazol-2-yl)methylthio]ethylamino}ethylene | C(#N)C=C(NCCSCC=1SC=CN1)OC | C10H13N3OS2
reactant | propargylamine | C(C#C)N | C3H5N
product | 1-Cyano-2-(2-propynylamino)-2-{2-[(thiazol-2-yl)methylthio]ethylamino}ethylene | C(#N)C=C(NCCSCC=1SC=CN1)NCC#C | C12H14N4S2
